US07323447B2
Step 1: Preparation of 1-(3,5-dimethylisoxazol-4-yl)carbamoylcyclopropanesulfonamide tert-butylcarbamate
This compound was obtained in a crude 100% yield according to the procedure described for the synthesis of 1-methoxymethylcyclopropylsulfonylamine tert-butylcarbamate except that 1.20 equivalents of 3,5-dimethylisoxazole-4-isocyanate was used as the electrophile. The compound was taken directly into the next reaction without purification.

reactant | 1-methoxymethylcyclopropylsulfonylamine tert-butylcarbamate | C(C)(C)(C)NC(O)=O.COCC1(CC1)S(=O)(=O)N
reactant | 3,5-dimethylisoxazole-4-isocyanate | 1.20 equivalents | CC1=C(C(=NO1)C)N=C=O | C6H6N2O2
product | 1-(3,5-dimethylisoxazol-4-yl)carbamoylcyclopropanesulfonamide tert-butylcarbamate | 100% yield | C(C)(C)(C)NC(O)=O.CC1=NOC(=C1NC(=O)C1(CC1)S(=O)(=O)N)C | InChI=1S/C9H13N3O4S.C5H11NO2/c1-5-7(6(2)16-12-5)11-8(13)9(3-4-9)17(10,14)15;1-5(2,3)6-4(7)8/h3-4H2,1-2H3,(H,11,13)(H2,10,14,15);6H,1-3H3,(H,7,8)
